US08669234B2
To a stirred solution of benzo[1,2-b:4,5-b′]dithiophene (820 mg, 4.3 mmol) in THF (100 mL) under argon at −78° C. was added a solution of n-butyllithium (2.5 M, 3.44 mL, 8.6 mmol). The solution was stirred at −78° C. for 30 minutes and then warmed to −20° C. for 30 minutes. Tri-n-butyltin chloride (2.34 mL, 8.6 mmol) was added and the reaction mixture was stirred at −20° C. for 30 minutes and then allowed to warm to room temperature. After 16 hours, hexane was added and the reaction was successively washed with water and brine, dried (MgSO4), concentrated and purified by flash chromatography (100% hexanes). 2,6-bis(tri-n-butylstannyl)-benzo[1,2-b:4,5-b′]dithiophene (1.4 g, 42%) was isolated along with product contaminated with the monostannylated benzodithiophene. 1H-NMR: 400 MHz, (CDCl3) δ: 8.27 (s, 2H), 7.38 (s, 2H), 1.65-1.57 (m, 12H), 1.41-1.32 (m, 12H), 1.26-1.11 (m, 12H), 0.91 (t, J=7.3 Hz, 18H) ppm.

reactant | benzo[1,2-b:4,5-b′]dithiophene | 4.3 mmol, 820 mg | S1C=2C(C=C1)=CC=1SC=CC1C2 | C10H6S2
reactant | n-butyllithium | 8.6 mmol, 2.5 M, 3.44 mL | C(CCC)[Li]
reactant | Tri-n-butyltin chloride | 8.6 mmol, 2.34 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | hexane | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,6-bis(tri-n-butylstannyl)-benzo[1,2-b:4,5-b′]dithiophene | 1.4 g, 42% | C(CCC)[Sn](C1=CC=2C(S1)=CC1=C(SC(=C1)[Sn](CCCC)(CCCC)CCCC)C2)(CCCC)CCCC | InChI=1S/C10H4S2.6C4H9.2Sn/c1-3-11-9-6-8-2-4-12-10(8)5-7(1)9;6*1-3-4-2;;/h1-2,5-6H;6*1,3-4H2,2H3;;
